US08034949B2
To a solution of the compound obtained in the above step (2) (515 mg) in tetrahydrofaran (4 mL) was added dropwise 1.59M butyl lithium-hexane solution (1.61 mL) under nitrogen gas atmosphere and cooling in dry ice/acetone bath and the mixture was stirred for 10 minutes. Thereto was added a solution of 4-chlorobenzaldehyde (360 mg) in tetrahydrofuran (1 mL) and the mixture was stirred at room temperature overnight. To the reaction mixture was added water and the mixture was extracted with ethyl acetate (×2). The organic layer was concentrated in vacuo and the resultant crude product was purified by a column chromatography on silica gel (solvent; hexane/ethyl acetate=80:20→60:40) to give (4-chlorophenyl)[4-(methoxymethyl)phenyl]methanol (459 mg, yield: 68%) as an oil.

reactant | 4-chlorobenzaldehyde | 360 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | water | O | H2O
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (4-chlorophenyl)[4-(methoxymethyl)phenyl]methanol | 459 mg, yield: 68% | ClC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)COC | C15H15ClO2
